US04251543
To a solution of 20.0 g of p-prenylacetophenone in 200 ml of methanol, 1.5 g of sodium borohydride was added at 20° C. with stirring. After stirring for 4 hours, 300 ml of water was added, the resulting solution was extracted with ethyl ether. The extract was washed with water, dried, concentrated and distilled to give 18.5 g of 1-(p-prenylphenyl)-ethanol, b.p. 107-108 °C/0.30 mmHg.

reactant | p-prenylacetophenone | 20.0 g | C(C=C(C)C)C1=CC=C(C=C1)C(C)=O | C13H16O
reactant | sodium borohydride | 1.5 g | [BH4-].[Na+]
reactant | water | 300 ml | O | H2O
solvent | methanol | 200 ml | CO | CH4O
product | 1-(p-prenylphenyl)-ethanol | 18.5 g | C(C=C(C)C)C1=CC=C(C=C1)C(C)O | C13H18O
